data/oMe_Silver.jsonl
{"reaction_id": "NR-240_1-c1occc1_2-S(=O)(=O)c1ccccc1_3-CC(C)(C)C_4-CC(C)C_5-C(=O)C","level": "medium","name": "Stevens Rearrangement","reactants_smiles": ["c1occc1C(=O)C(S(=O)(=O)c1ccccc1)[N+](CC(C)(C)C)(CC(C)C)C(=O)C","[Li]N(C(C)C)C(C)C"],"products_smiles": ["c1occc1C(=O)C(S(=O)(=O)c1ccccc1)(C(=O)C)N(CC(C)(C)C)(CC(C)C)"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1occc1C([O-])=C(S(=O)(=O)c1ccccc1)[N+](CC(C)(C)C)(CC(C)C)C(=O)C","step_weight": 0,"rationale": "LDA selectively deprotonates the α-carbon due to enhanced acidity from carbonyl resonance and the inductive electron-withdrawing effect of the positively charged nitrogen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "c1occc1C(=O)C(S(=O)(=O)c1ccccc1)(C(=O)C)N(CC(C)(C)C)(CC(C)C)","step_weight": 0,"rationale": "The nitrogen ylide rearranges via a [1,2]-shift because migration relieves charge separation and forms a stable tertiary amine, favored by the ability of the migrating group to stabilize developing negative charge."}],"description": "A strong, non-nucleophilic base deprotonates the acidic α-carbon between the carbonyl and quaternary ammonium, forming a nitrogen ylide stabilized by resonance with the carbonyl. This ylide undergoes a [1,2]-alkyl shift, yielding a more stable tertiary amine product."}
{"reaction_id": "NR-138_1-c1ccc(OC)cc1_2-c1ccccc1_3-CC_4-c1ccc(C(F)(F)F)cc1_5-c1ccccc1_6-c1ccc(OC)cc1","name": "Mannich Reaction","level": "medium","reactants_smiles": ["C(C(=O)c1ccc(OC)cc1)(c1ccccc1)(CC)","C(=O)(c1ccc(C(F)(F)F)cc1)(c1ccccc1)","Nc1ccc(OC)cc1"],"products_smiles": ["C(C(=O)c1ccc(OC)cc1)(c1ccccc1)(CC)C(c1ccc(C(F)(F)F)cc1)(c1ccccc1)Nc1ccc(OC)cc1"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=[OH+])c1ccc(OC)cc1)(c1ccccc1)","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbonyl carbon via inductive and resonance effects, facilitating subsequent enolization."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(c1ccccc1)=C(O)c1ccc(OC)cc1","rationale": "Proton transfer to the α-carbon promotes enol formation, stabilized by resonance between the α-carbon and the protonated carbonyl."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=[OH+])c1ccc(OC)cc1)(c1ccccc1)(CC)C(c1ccc(C(F)(F)F)cc1)(c1ccccc1)Nc1ccc(OC)cc1","rationale": "The nucleophilic enol attacks the electrophilic iminium carbon, favored by conjugation and the strong electron-withdrawing effect of the protonated nitrogen."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)c1ccc(OC)cc1)(c1ccccc1)(CC)C(c1ccc(C(F)(F)F)cc1)(c1ccccc1)Nc1ccc(OC)cc1","rationale": "Deprotonation restores neutrality, yielding the stable β-amino carbonyl product under thermodynamically favorable conditions."}],"description": "Under acidic conditions, the carbonyl group is activated toward nucleophilic attack via protonation, enabling enolization of the ketone. The enol then attacks the iminium ion formed from the aldehyde and amine, yielding the β-amino carbonyl product after deprotonation."}
{"reaction_id": "NR-321_1-c1ccccc1_2-C#N_3-C","level": "easy","name": "Williamson Ether Synthesis","reactants_smiles": ["Oc1ccccc1","BrC(C#N)C","[Na][H]"],"products_smiles": ["C(Oc1ccccc1)(C#N)C"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]c1ccccc1","step_weight": 0,"rationale": "NaH acts as a strong base, abstracting the alcohol proton due to the high acidity of the O–H bond and forming a resonance-stabilized alkoxide anion."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(Oc1ccccc1)(C#N)C","step_weight": 0,"rationale": "The alkoxide, being a strong nucleophile, attacks the electrophilic carbon of the alkyl bromide in an SN2 fashion, favored by the good leaving ability of bromide and minimal steric hindrance."}],"description": "In the Williamson ether synthesis, an alcohol is first deprotonated by a strong base to form an alkoxide, which is a strong nucleophile. This alkoxide then undergoes an SN2 reaction with an alkyl halide, yielding the ether product efficiently under mild conditions."}
